US07264790B2
According to the method described in Arch. Pharm. (Weinheim) 328, 271 (1995), addition of two carbon atoms was performed to 15-(2,4,6-triiodophenoxy)pentadecanoic acid by using diethyl malonate to obtain 17-(2,4,6-triiodophenoxy)heptadecanoic acid.

reactant | 15-(2,4,6-triiodophenoxy)pentadecanoic acid | IC1=C(OCCCCCCCCCCCCCCC(=O)O)C(=CC(=C1)I)I | C21H31I3O3
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 17-(2,4,6-triiodophenoxy)heptadecanoic acid | IC1=C(OCCCCCCCCCCCCCCCCC(=O)O)C(=CC(=C1)I)I | C23H35I3O3
